US04238493
A mixture of 1-nitro-2-methylthio-2-(3-bromo-propylamino)ethylene (3.2 g, 0.012 mol) and sodium hydride (50% in oil, 0.9 g, 0.019 mol) in dry tetrahydrofuran (50 ml) was refluxed for 18 hours. The mixture was filtered, and the filtrate was evaporated to dryness. The residue was chromatographed on a silica gel column, the product being eluted with ethyl acetate. Recrystallisation of the product from methanol/propan-2-ol gave 2-methylthio-3-nitro-1,4,5,6-tetrahydropyridine (0.6 g, 29%) m.p. 230.5°-231.5°.

reactant | 1-nitro-2-methylthio-2-(3-bromo-propylamino)ethylene | 0.012 mol, 3.2 g | [N+](=O)([O-])C=C(NCCCBr)SC | C6H11BrN2O2S
reactant | sodium hydride | 0.019 mol, 0.9 g | [H-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methylthio-3-nitro-1,4,5,6-tetrahydropyridine | 0.6 g, 29% | CSC=1NCCCC1[N+](=O)[O-] | C6H10N2O2S
